US07384934B2
7-Fluoro-2-trifluoromethyl-5H-dibenzo[b,e][1,4]diazepin-11-ylamine hydrochloride
Heat a solution of 2-(5-fluoro-2-nitro-phenylamino)-5-trifluoromethyl-benzonitrile (1.62 g, 4.98 mmol) in ethanol (24 ml) to 60° C. Add to this a solution of tin (II) chloride (2.83 g, 14.94 mmol) in 5.0 N hydrochloric acid (24 ml). Heat the resulting mixture to reflux for 20 hours. Cool the reaction to room temperature, add 30 ml of 5.0 N hydrochloric acid and place the mixture in a freezer for 16 hours. The product precipitates from the solution and is collected by filtration. Wash solid with 5.0 N hydrochloric acid to obtain 1.44 g of the title compound (4.34 mmol, 87% yield) as a yellow amorphous solid: Mass Spectrum (m/e): 295(M+1).

reactant | 2-(5-fluoro-2-nitro-phenylamino)-5-trifluoromethyl-benzonitrile | 4.98 mmol, 1.62 g | FC=1C=CC(=C(C1)NC1=C(C#N)C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C14H7F4N3O2
reactant | tin (II) chloride | 14.94 mmol, 2.83 g | [Sn](Cl)Cl
solvent | ethanol | 24 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 5.0 N, 24 ml | Cl | ClH
solvent | hydrochloric acid | 5.0 N, 30 ml | Cl | ClH
product | 7-Fluoro-2-trifluoromethyl-5H-dibenzo[b,e][1,4]diazepin-11-ylamine hydrochloride | 4.34 mmol, 1.44 g, 87% yield | Cl.FC1=CC2=C(N=C(C3=C(N2)C=CC(=C3)C(F)(F)F)N)C=C1 | InChI=1S/C14H9F4N3.ClH/c15-8-2-4-11-12(6-8)20-10-3-1-7(14(16,17)18)5-9(10)13(19)21-11;/h1-6,20H,(H2,19,21);1H
